US07799798B2
D. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one
To a solution of 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (4.00 g, 11.2 mmol) in anhydrous dichloromethane (80.0 mL) was added diisopropylethylamine (6.10 mL) and thionyl chloride (2.77 g, 23.5 mmol) under nitrogen at 0° C. The reaction mixture was stirred at 0° C. for 1 h and concentrated in vacuo to dryness. The residue was dissolved in THF/acetic acid (7:3, 100 mL) followed by the addition of Zn dust (3.08 g, 47.1 mmol) in one portion. The reaction mixture was stirred at ambient temperature for 16 h, filtered and the residue was washed with ethyl acetate (30.0 mL). The filtrate was concentrated in vacuo to dryness. The residue was dissolved in ethyl acetate (200 mL), washed with saturated ammonium chloride (3×50.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to give the title compound (2.92 g, 76%): 1H NMR (300 MHz, CDCl3) δ 8.64 (br, 1H), 8.26 (d, 1H), 7.52 (d, 1H), 7.05 (dd, 1H), 6.53 (s, 1H), 6.25 (s, 1H), 5.84 (d, 2H), 5.02 (s, 1H), 3.86-3.75 (m, 2H), 1.76-1.67 (m, 2H), 1.33-1.28 (m, 4H), 0.85 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 178.5, 157.4, 150.9, 147.8, 147.5, 141.6, 133.2, 121.7, 118.7, 114.1, 106.4, 101.2, 101.1, 46.5, 39.8, 28.9, 27.3, 22.3, 13.9; MS (ES+) m/z 341 (M+1).

reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 11.2 mmol, 4.00 g | OC1(C(N(C2=NC=CC=C21)CCCCC)=O)C2=CC1=C(OCO1)C=C2O | C19H20N2O5
reactant | diisopropylethylamine | 6.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thionyl chloride | 23.5 mmol, 2.77 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 80.0 mL | ClCCl | CH2Cl2
catalyst | Zn | 47.1 mmol, 3.08 g | [Zn] | Zn
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 2.92 g, 76% | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=NC=CC=C21)CCCCC)=O | C19H20N2O4
